US04954511
A mixture of 10 g of sodium bicarbonate, and 0.10 g of potassium iodide, 4.13 g of 4-(2,3,4,5,6-pentafluorophenoxy)piperidine and 75 ml of dimethylformamide was treated with a solution of 3.41 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole in 25 ml dimethylformamide and stirred at 68° C. for 5.5 hours. The mixture was then cooled, poured into water, and then extracted with ethyl acetate. The organic layer was washed with water followed by a saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, evaporation of the volatiles afforded a residue which was purified by means of high pressure liquid chromatography (silica gel; elution with ethyl acetate) to yield 2.63 g of 1-[-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine as an oil. The oil was dissolved in diethyl ether and the solution acidified to pH 1 with etheral hydrogen chloride to precipitate the corresponding hydrochloride salt. Recrystallization from isopropanol afforded 1.80 g (15.4%) of 1-[ -(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine hydrochloride, m.p. 187°-189° C.

reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.10 g | [I-].[K+]
reactant | 4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 4.13 g | FC1=C(OC2CCNCC2)C(=C(C(=C1F)F)F)F | C11H10F5NO
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 3.41 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-(2,3,4,5,6-pentafluorophenoxy)piperidine | 2.63 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)OC2=C(C(=C(C(=C2F)F)F)F)F)C=C1 | C21H18F6N2O2
